US04219480
When using the procedure of Example 5, 48.7 grams (0.18 mole) of 2-nitro-2'-hydroxy-5'-methylazobenzene (95% pure) was dissolved in a solution of 9 grams of sodium hydroxide in 30 grams of water and 45 grams of isopropanol, and a total of 7.0 grams of a 50% slurry in water of molybdenum-promoted Raney nickel catalyst (W. R. Grace Raney No. 30) were added in two equal 3.5 grams portions at the start and at the half way point of the hydrogenation, the product, 2-(2-hydroxy-5-methylphenyl)-2H-benzotriazole was obtained in very high yield after removal of the suspended nickel catalyst by filtration and acidification of the filtrate to a pH value of less than 4 using aqueous sulfuric acid.

reactant | 2-nitro-2'-hydroxy-5'-methylazobenzene | 0.18 mole, 48.7 grams | [N+](=O)([O-])C1=C(C=CC=C1)N=NC1=C(C=CC(=C1)C)O | C13H11N3O3
solvent | sodium hydroxide | 9 grams | [OH-].[Na+]
solvent | water | 30 grams | O | H2O
solvent | isopropanol | 45 grams | C(C)(C)O | C3H8O
catalyst | Raney nickel | [Ni] | Ni
catalyst | molybdenum | [Mo] | Mo
product | 2-(2-hydroxy-5-methylphenyl)-2H-benzotriazole | OC1=C(C=C(C=C1)C)N1N=C2C(=N1)C=CC=C2 | C13H11N3O
